US08030500B2
4-Fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine
The title compound was synthesized as described in Example 33 in 5% yield starting from 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1H-isoindol-3-amine (400 mg, 0.91 mmol) and pyrimidin-5-ylboronic acid (124 mg, 1.00 mmol).

reactant | 1-(2-Bromopyridin-4-yl)-4-fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1H-isoindol-3-amine | 0.91 mmol, 400 mg | BrC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=CC(=C(C(=C1)C)OC)C | C22H19BrFN3O
reactant | pyrimidin-5-ylboronic acid | 1.00 mmol, 124 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
product | 4-Fluoro-1-(4-methoxy-3,5-dimethylphenyl)-1-(2-(pyrimidin-5-yl)pyridin-4-yl)-1H-isoindol-3-amine | 5% yield | FC1=C2C(=NC(C2=CC=C1)(C1=CC(=NC=C1)C=1C=NC=NC1)C1=CC(=C(C(=C1)C)OC)C)N | C26H22FN5O
